US05990136
Preparation of N-[[4,5-Dihydro-3-[4-[1,2,3,6-tetrahydro-1-(acetyl)-4-pyridinyl]phenyl]-5-isoxazolyl]methyl]acetamide.
To a flask containing N-[[4,5-dihydro-3-[4-[1,2,3,6-tetrahydropyridinyl]-phenyl]-5-isoxazolyl]methyl]acetamide (300 mg, 1.00 mmol) in methylene chloride (15 mL) and triethylamine (0.28 mL, 2.00 mmol) is added acetyl chloride (0.08 mL, 1.10 mmol) at 0° C. under an inert atmosphere. The reaction is warmed to ambient temperature stirred fifteen hours, concentrated in vacuo, and chromatographed on silica gel (230-400 mesh, 100 mL), eluting with chloroform/methanol (98/2). The appropriate fractions are combined (Rf =0.18, TLC, chloroform/methanol, 95/5) and concentrated in vacuo to give the title compound, HRMS calcd for C19H23N3O3 : 341.1739. Found: 341.7125.

reactant | N-[[4,5-dihydro-3-[4-[1,2,3,6-tetrahydropyridinyl]-phenyl]-5-isoxazolyl]methyl]acetamide | 1.00 mmol, 300 mg | N1(CCC=CC1)C1=CC=C(C=C1)C1=NOC(C1)CNC(C)=O | C17H21N3O2
reactant | triethylamine | 2.00 mmol, 0.28 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 1.10 mmol, 0.08 mL | C(C)(=O)Cl | C2H3ClO
reactant | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | N-[[4,5-Dihydro-3-[4-[1,2,3,6-tetrahydro-1-(acetyl)-4-pyridinyl]phenyl]-5-isoxazolyl]methyl]acetamide | C(C)(=O)N1CCC(=CC1)C1=CC=C(C=C1)C1=NOC(C1)CNC(C)=O | C19H23N3O3
